US07084170B2
3-Hydroxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester
A solution of 4,4,4-trifluoro-3-methoxy-but-2-enoic acid ethyl ester (9.6 g, 48.5 mmol) and methyl thioglycolate (4.3 mL, 48.5 mmol) in MeOH (75 mL) is cooled to 5° C. A solution of KOH (3.3 g, 58.2 mmol) in MeOH (75 mL) is then added over 30 min. The reaction mixture is stirred overnight at room temperature. The reaction mixture is then poured over a stirred mixture of ice (75 g), H2O (75 mL) and concentrated H2SO4 (4.5 mL). The mixture is extracted with EtOAc (2×250 mL). The combined extracts are washed with saturated NaHCO3. The washings are back-extracted with EtOAc. The combined organic layers are washed with brine, then dried (Na2SO4), filtered and concentrated to afford the title compound (10 g, 91%) as a brown oil which is used without further purification.

reactant | 4,4,4-trifluoro-3-methoxy-but-2-enoic acid ethyl ester | 48.5 mmol, 9.6 g | C(C)OC(C=C(C(F)(F)F)OC)=O | C7H9F3O3
reactant | methyl thioglycolate | 48.5 mmol, 4.3 mL | C(CS)(=O)OC | C3H6O2S
reactant | KOH | 58.2 mmol, 3.3 g | [OH-].[K+]
reactant | H2SO4 | 4.5 mL | OS(=O)(=O)O | H2O4S
solvent | MeOH | 75 mL | CO | CH4O
solvent | MeOH | 75 mL | CO | CH4O
solvent | H2O | 75 mL | O | H2O
product | 3-Hydroxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester | 10 g, 91% | COC(=O)C=1SC(=CC1O)C(F)(F)F | C7H5F3O3S
